Name:  ___.           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
seizure

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Ms. ___ is a pleasant ___ woman with 
hypercalcemia currently under workup for ?thyroid cancer who 
presents as a transfer from OSH for seizure. 

At 8:30pm, she put her hands to both bodes of her head and 
complained of a severe headache. This persisted for ___, 
developed nausea, and asked to be brought to the hospital. She 
was brought by car, vomited upon arrival and slumped over in 
wheelchair at tri___. She then ad a 3 minute tonic-clonic 
seizure witnessed by triage nurse and attending physician. 
Resolved as 1mg Ativan given. Also got a load of fosphenytoin 
and transferred to ___.

On interview, she was at her neurologic baseline. She has had a 
headache for the last ___ days associated with nausea but no 
vomiting. It is a pounding headache that gradually got worse. 
She then had a very severe sudden pounding headache at her 
bilateral temples that radiated to the back of her head. Tried 
Excedrin, which seemed to make the headache worse. Better with 
sleep. Not associated with photophobia, endorses phonophobia. 
Her daughter and granddaughter drove her to the ED, and she was 
leaning on her right side unable to sit up. Endorsed numbness 
and tingling in her left hand, no weakness. She went to get a 
basin ___ nausea and did feel like her speech was off for about 
___. Also felt feeling of impending doom and extreme 
anxiety prior to blacking out. Unable to remember much more of 
event.   

Of note, she has been undergoing outpatient workup for 
hypercalcemia. Thyroid ultrasound showed multiple thyroid 
nodules. Parathyroid nuclear scan negative for evidence of 
thyroid adenoma. Has had a 20 pound weight loss over the summer, 
unintentional. 

She had headaches as a child, but she great out of them. They 
have started again this past month, and she has had three so far 
after being headache free for decades.  

She has symptoms of a UTI including cough, sore throat, and 
runny nose over the last week. 

 
Past Medical History:
hypercalcemia, ?thyroid cancer, HTN, hypotension (at one point 
was in SBP ___, thyroid surgery, tonsillectomy, kidney stones

 
Social History:
___
Family History:
kidney stones, sister and daughter with kidney cancer, sister 
with migraines
 
Physical Exam:
Admission Exam:
Vitals:  T: ___  HR: 100  BP: 172/66  RR: 16  SaO2: 99% RA
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Mildly rangential. 
Able to relate history without difficulty. Speech is fluent with 
full sentences, intact repetition, and intact verbal 
comprehension. Naming intact. No paraphasias.  No dysarthria. 
Normal prosody. No evidence of hemineglect. No left-right 
confusion.  Able to follow both midline and appendicular 
commands.

- Cranial Nerves: anisocoria L 5mm R 3mm, both briskly reactive. 
Unable to visualize optic disc. VF full to number counting. 
EOMI, no nystagmus. V1-V3 without deficits to light touch 
bilaterally. No facial movement asymmetry. Hearing intact to 
finger rub bilaterally.  Palate elevation symmetric. 
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. Mild intention tremor 
on right. No asterixis.

   [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    5     5     5     5    5 
 R   5     5     5     5     5    5     5     5     5    5
  

- Reflexes: 
       [Bic] [Tri] [___] [Quad] [Gastroc]
      L  3+    3+     3+     3+       2
      R  3+    3+     3+     3+       2  

Plantar response flexor bilaterally 

- Sensory: No deficits to light touch throughout

- Coordination: No dysmetria with finger to nose testing 
bilaterally. 

- Gait: deferred

Discharge Exam:
Vitals: T98.0 BP 90-140/47-70,  HR 47-73,  SpO2 95%RA
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3.Speech is fluent 
with
full sentences, intact repetition, and intact verbal
comprehension. Naming intact. No dysarthria. Able to follow both
midline and appendicular commands.

- Cranial Nerves: anisocoria L 5mm R 3mm, both briskly reactive.
VFF to finger wiggling, EOMI, no nystagmus. V1-V3 without
deficits to light touch bilaterally. No facial movement
asymmetry. Hearing intact to finger rub bilaterally.  Palate
elevation symmetric. SCM/Trapezius strength ___ bilaterally.
Tongue midline.

- Motor:  Normal bulk and tone. No drift. Mild intention tremor
on right. No asterixis.

   [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    5     5     5     5    5 
 R   5     5     5     5     5    5     5     5     5    5
  

- Reflexes: 
       [Bic] [Tri] [___] [Quad] [Gastroc]
      L  3+    3+     3+     3+       2
      R  3+    3+     3+     3+       2  

Plantar response flexor bilaterally 

- Sensory: No deficits to light touch throughout

- Coordination: No dysmetria with finger to nose testing
bilaterally. 

- Gait: deferred

 
Pertinent Results:
___ 04:25AM URINE  HOURS-RANDOM
___ 04:25AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:25AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 04:25AM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-30 
GLUCOSE-TR KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 04:25AM URINE  RBC-<1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 04:25AM URINE  HYALINE-3*
___ 04:25AM URINE  MUCOUS-RARE
___ 01:27AM   GLUCOSE-139* UREA N-21* CREAT-0.9 SODIUM-142 
POTASSIUM-3.4 CHLORIDE-110* TOTAL CO2-21* ANION GAP-14
___ 01:27AM   estGFR-Using this
___ 01:27AM   ALT(SGPT)-19 AST(SGOT)-20 ALK PHOS-27* TOT 
BILI-0.3
___ 01:27AM   ALBUMIN-3.4* CALCIUM-8.0* PHOSPHATE-2.2* 
MAGNESIUM-1.8
___ 01:27AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:27AM   WBC-14.8* RBC-3.83* HGB-11.7 HCT-35.8 MCV-94 
MCH-30.5 MCHC-32.7 RDW-13.8 RDWSD-46.6*
___ 01:27AM   NEUTS-87.9* LYMPHS-6.3* MONOS-5.1 EOS-0.1* 
BASOS-0.1 IM ___ AbsNeut-12.98* AbsLymp-0.93* AbsMono-0.76 
AbsEos-0.02* AbsBaso-0.02
___ 01:27AM   PLT COUNT-206

MRI head w/wo contrast ___
IMPRESSION: 
1. Predominantly subcortical FLAIR hyperintensities with few 
associated small 
areas of enhancement involving bilateral frontal, parietal, 
occipital, 
temporal lobes and cerebellum, with fairly symmetrical 
distribution, more 
prominent on the right.  Findings likely represent PRES.  Lack 
of 
predominantly cortical dominated involvement would make ischemia 
unlikely. 
  
EEG ___
IMPRESSION: This is an abnormal awake and asleep EEG due to the 
presence of  intermittent right temporal delta frequency slowing 
that occasionly occurs in regular bursts. No seizures or 
epileptiform activity is seen. Given the repetitive bursts of 
slowing, suggest repeating the study within one week to 
re-assess for epileptiform activity. 
  

 
Brief Hospital Course:
___ is a ___ female with a history of HTN who 
presented with 3 day hx of HA that acutely worsened on day of 
presentation to OSH. At OSH she was noted to have a GTC for 
which she received Ativan and she was started on keppra. She was 
transferred to ___ for further care. AT ___ she was back to 
her baseline. She was noted to have an elevated SBP to 170's, 
but other wise her exam was non-focal. Her labs were significant 
for  ___ and mild hypercalcemia (chronic). She underwent MRI 
head which was consistent with PRES. Etiology of her symptoms 
was thought to be due to posterior reversible encephalopathy 
syndrome due to hypertension in setting of recent decreases in 
her anti-hypertensives (amlodipine and atenolol discontinued by 
PCP due to hypotension). Her headache improved with blood 
pressure management. Her ___ resolved with small amount of NS 
IVF. Throughout admission her blood pressure was noted to be 
elevated at times, thus amlodipine was restarted (though at 
slightly lower dose). She has follow up appointments scheduled 
with both her PCP and outpatient neurology. 
Of note she was instructed to remain on the keppra until her 
outpatient follow up with neurology at which point keppra will 
be tapered off. 
Regarding her hypercalcemia she is currently following with an 
endocrinologist for further work-up.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Chlorthalidone 50 mg PO DAILY 
3. Quinapril 10 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0 
2.  LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam [Keppra] 1,000 mg 1 tablet(s) by mouth twice a 
day Disp #*120 Tablet Refills:*0 
3.  Allopurinol ___ mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Chlorthalidone 50 mg PO DAILY  
6.  Quinapril 10 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Posterior reversible encephalopathy syndrome in setting of 
hypertension and mild ___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear ___ were admitted to ___ for headache and seizure. ___ 
underwent imaging which was concerning for posterior reversible 
encephalopathy syndrome which is a condition which is 
characterized by headache, seizure, confusion. It can be 
triggered by hypertension (as in your case) among others. On 
imaging we usually see swelling of the brain. These symptoms as 
well as the swelling of the brain improve over time. 
Again, in your case we believe it was triggered by high blood 
pressure and mild kidney injury ( most likely from dehydration). 
We managed your blood pressure and your symptoms improved. We 
also started ___ on Keppra, which is a seizure medication, which 
___ will take until ___ follow up with Dr. ___ in outpatient 
neurology. We restarted your amlodipine which had been 
previously stopped. Please take the rest of your medications as 
instructed. ___ will also receive home physical therapy. 

It was a pleasure taking care of ___.
 Best, 
Your ___ team 
 
Followup Instructions:
___